US07417064B2
c) 5-fluoro-benzo[b]thiophen-4-ol
Heat a mixture of 5-bromo-5-fluoro-6,7-dihydro-5H-benzo[b]thiophen-4-one (6.97 g, 28.0 mmol, 1 equiv.), lithium carbonate (4.34 g, 58.7 mmol, 2.1 equiv.), and lithium bromide (5.61 g, 64.6 mmol, 2.3 equiv.) in dry dimethylformamide (150 mL) at 150° C. (internal temperature) for 2 hours. Cool the reaction mixture to room temperature, add ice water, and then carefully add 5N HCl until gas evolution ceases and the mixture is acidic. Add ethyl acetate, separate the layers, and extract the aqueous layer with ethyl acetate (3 times). Extract the combined organic extracts with 2N sodium hydroxide (2 times), reacidify the aqueous layers with hydrochloric acid, and then re-extract the aqueous layer with dichloromethane (3 times). Dry the dichloromethane extracts over anhydrous magnesium sulfate, filter, and concentrate under reduced pressure. Purify the resultant crude material by medium pressure liquid chromatography eluting with 0 to 10% ethyl acetate in hexanes to afford the title compound as a colorless solid (3.738 g, 79%). δH (400 MHz, CDCl3) 5.35 (br s, 1H), 7.13 (dd, 1H, J=10, 8 Hz), 7.34 (ddd, 1H, J=8, 4, 1 Hz), 7.42 (d, 1H, J=6 Hz), 7.49 (dd, 1H, J=6, 1 Hz).

reactant | 5-bromo-5-fluoro-6,7-dihydro-5H-benzo[b]thiophen-4-one | 28.0 mmol, 6.97 g, 1 equiv. | BrC1(C(C2=C(SC=C2)CC1)=O)F | C8H6BrFOS
reactant | lithium carbonate | 58.7 mmol, 4.34 g, 2.1 equiv. | C([O-])([O-])=O.[Li+].[Li+]
reactant | lithium bromide | 64.6 mmol, 5.61 g, 2.3 equiv. | [Br-].[Li+]
reactant | HCl | 5N | Cl | ClH
solvent | dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
product | 5-fluoro-benzo[b]thiophen-4-ol | 3.738 g, 79% | FC1=C(C2=C(SC=C2)C=C1)O | C8H5FOS
